US07846944B2
5-Bromo-1-(2,6-difluorophenyl)-1H-pyrazolo[3,4-b]pyridin-6(7H)-one (11.3 g, 34.7 mmol) in DME (78 mL) and DMF (7.7 mL) was cooled to 0° C. under argon. NaH (1.24 g of 95% wt., 49 mmol) was then added in small portions and the solution was allowed to stir at 0° C. for 10 min. Finely ground lithium bromide (8.83 g, 102 mmol) was then added and the solution stirred at RT for 20 min at which point MeI (4.37 ml, 68.9 mmol) was added. The suspension was heated at 40° C. for 16 h then cooled to RT. The reaction mixture was quenched with water and extracted with EtOAc (3×100 mL). The combined organic solution was washed with 2×50 mL brine, dried over MgSO4, filtered and concentrated. The resulting crude solid was then suspended in 300 mL of 1:1 solution of EtOAc:Hexanes with stirring over 30 min. The solution was then allowed to precipitate in the freezer for 2 h. The resulting solid was then collected by filtration washing with MTBE affording 5-bromo-1-(2,6-difluorophenyl)-7-methyl-1H-pyrazolo[3,4-b]pyridin-6(7H)-one (5.27 g) in >95% purity as a beige solid. The mother liquor was then concentrated to ca. 15 ml in vacuo (rotary evaporator) and treated with 50 mL of MTBE and again chilled in the freezer overnight. The resulting solid was collected by filtration and washing with MTBE to afford a second crop of 5-bromo-1-(2,6-difluorophenyl)-7-methyl-1H-pyrazolo[3,4-b]pyridin-6(7H)-one (1.54 g) in ca. 95% purity. MS (ESI, pos.ion) m/z: 340.0/342.0 (M+1). For a related reference, see: Liu, H.; Ko, S.-B.; Josien, H.; Curran, D. P. Tetrahedron Lett. 1995, 36, 8917-8920.

reactant | 5-Bromo-1-(2,6-difluorophenyl)-1H-pyrazolo[3,4-b]pyridin-6(7H)-one | 34.7 mmol, 11.3 g | BrC1=CC2=C(NC1=O)N(N=C2)C2=C(C=CC=C2F)F | C12H6BrF2N3O
reactant | NaH | 49 mmol, 1.24 g | [H-].[Na+]
reactant | lithium bromide | 102 mmol, 8.83 g | [Br-].[Li+]
reactant | MeI | 68.9 mmol, 4.37 ml | CI | CH3I
solvent | DME | 78 mL | COCCOC | C4H10O2
solvent | DMF | 7.7 mL | CN(C)C=O | C3H7NO
product | 5-bromo-1-(2,6-difluorophenyl)-7-methyl-1H-pyrazolo[3,4-b]pyridin-6(7H)-one | 5.27 g | BrC1=CC2=C(N(C1=O)C)N(N=C2)C2=C(C=CC=C2F)F | C13H8BrF2N3O
